US05468751
Preparation of 4-hydroxy-5-iodo-6-ethylpyrimidine
50.8 g of iodine (0.20 mol) are introduced into 850 ml of acetic acid, and 14.8 g (0.21 mol) of chlorine are introduced at 30°-33° C., whereupon the iodine dissolves. 49.7 g (0.4 mol) of 4-hydroxy-6-ethylpyrimidine in solution in 150 ml of acetic acid are then added dropwise at 20° C., the crystalline end product separating out. Filtration with suction and recrystallisation from ethyl acetate yield 24.4 g of pure substance, m.p. 191°-192° C.

reactant | iodine | 0.20 mol, 50.8 g | II | I2
reactant | chlorine | 0.21 mol, 14.8 g | ClCl | Cl2
reactant | 4-hydroxy-6-ethylpyrimidine | 0.4 mol, 49.7 g | OC1=NC=NC(=C1)CC | C6H8N2O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 850 ml | C(C)(=O)O | C2H4O2
product | 4-hydroxy-5-iodo-6-ethylpyrimidine | OC1=NC=NC(=C1I)CC | C6H7IN2O
